US07053117B2
5-Methoxypyridine-3-carboxaldehyde
5-Bromo-3-methoxypyridine. To a stirred solution of 2,5-dibromopyridine (2.188 g, 9.2 mmol) in anhydrous MeOH (10 mL) was added NaOMe (10 mL of 25% NaOMe in MeOH, 42 mmol). The mixture was refluxed for 3 days and then poured into a stirred cold aqueous 5% NaHCO3 (75 mL). The mixture was extracted with ether (4×10 mL) and the extracts were washed with brine (3×10 mL). The organic layer was dried (Na2SO4, anhydrous) and evaporated. The crude was purified by chromatography on silica gel with hexane: EtOAc (4:1˜2:1) as eluant, yielding 1.02 g of (61%) the title compound. 1H NMR (CD3OD): 8.17 (s, 1H), 8.12 (s, 1H), 7.24 (s, 1H), 3.74 (s, 3H).

reactant | 5-Bromo-3-methoxypyridine | BrC=1C=C(C=NC1)OC | C6H6BrNO
reactant | 2,5-dibromopyridine | 9.2 mmol, 2.188 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | NaOMe | 42 mmol, 10 mL | C[O-].[Na+]
reactant | NaHCO3 | 75 mL | C(=O)(O)[O-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 5-Methoxypyridine-3-carboxaldehyde | 61% | COC=1C=C(C=NC1)C=O | C7H7NO2
